US07432260B2
[4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-(4-methanesulonyl-phenyl)-amine [85].
By condensation of 3-dimethylamino-1-(2,4-dimethyl-thiazol-5-yl)-propenone and N-(4-methanesulfonyl-phenyl)-guanidine nitrate. Yellow solid. Anal. RP-HPLC: tR=16.6 min (0-60% MeCN, purity>97%). 1H-NMR (DMSO-d6) δ: 2.65 (s, 3H, CH3), 2.66 (s, 3H, CH3), 3.15 (s, 3H, CH3), 7.22 (d, 1H, J=5.5 Hz, pyrimidinyl-H), 7.84 (d, 2H, J=9.0 Hz, Ph-H), 8.03 (d, 2H, J=9.0 Hz, Ph-H), 8.61 (d, 1H, J=5.5 Hz, pyrimidinyl-H), 10.23 (sbr, 1H, NH). MS (ESI) m/z 361.17 [M+H]+(C16H16N4O2S2 requires 361.46).

reactant | 3-dimethylamino-1-(2,4-dimethyl-thiazol-5-yl)-propenone | CC1=C(SC(=N1)C)/C=C/C(=O)N(C)C | C10H14N2OS
reactant | N-(4-methanesulfonyl-phenyl)-guanidine nitrate | [N+](=O)(O)[O-].CS(=O)(=O)C1=CC=C(C=C1)NC(=N)N
solvent | MeCN | CC#N | C2H3N
product | [4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-(4-methanesulonyl-phenyl)-amine | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)S(=O)(=O)C | C16H16N4O2S2
